US04229584
A 14.0 g amount of 4-amino-1,5-naphthalenedisulfonic acid is suspended in 100 ml of water and the solution is made basic with 5 N sodium hydroxide. The solution is warmed and absolute ether alcohol is added until a solid is precipitated. The solid is collected by filtration and is washed with 85% aqueous ethyl alcohol, ethyl alcohol and ether, then dried in vacuo to yield 12.0 g of 4-amino-1,5-naphthalenedisulfonic acid disodium salt.

reactant | 4-amino-1,5-naphthalenedisulfonic acid | NC1=CC=C(C=2C=CC=C(C12)S(=O)(=O)O)S(=O)(=O)O | C10H9NO6S2
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | ether alcohol | CCCCOCCO | C6H14O2
solvent | water | 100 ml | O | H2O
product | 4-amino-1,5-naphthalenedisulfonic acid disodium salt | 12.0 g | [Na+].[Na+].NC1=CC=C(C=2C=CC=C(C12)S(=O)(=O)[O-])S(=O)(=O)[O-] | InChI=1S/C10H9NO6S2.2Na/c11-7-4-5-8(18(12,13)14)6-2-1-3-9(10(6)7)19(15,16)17;;/h1-5H,11H2,(H,12,13,14)(H,15,16,17);;/q;2*+1/p-2
